US06826033B2
A solution of (2S)-2-[(4-(benzyloxy)phenoxy)methyl]-oxirane (1.19 g) and (2S)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol (1.33 g) in ethanol (13 ml) was refluxed for 20 hours. After cooling to room temperature, the solvent was removed by evaporation and the residue was chromatographed on silica gel (eluent: chloroform/methanol=98/2) to give (2S)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-(4-nitrophenyl)-1-propanol (2.04 g) as a yellow gum.

reactant | (2S)-2-[(4-(benzyloxy)phenoxy)methyl]-oxirane | 1.19 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H]2OC2)C=C1 | C16H16O3
reactant | (2S)-2-(benzylamino)-3-(4-nitrophenyl)-1-propanol | 1.33 g | C(C1=CC=CC=C1)N[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O3
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | (2S)-2-[N-benzyl-N-[(2S)-3-[4-(benzyloxy)phenoxy]-2-hydroxypropyl]amino]-3-(4-nitrophenyl)-1-propanol | 2.04 g | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=C(C=C1)OCC1=CC=CC=C1)O)[C@H](CO)CC1=CC=C(C=C1)[N+](=O)[O-] | C32H34N2O6
